US05149717
b) 3-(4-acetyl-3-hydroxy-2-propylphenylthio)-propyl-triphenylphosphonium bromide
The title compound is prepared analogously to Example 1 from 3-(4-acetyl-3-hydroxy-2-propylphenylthio)-propyl bromide and triphenylphosphine.

reactant | 3-(4-acetyl-3-hydroxy-2-propylphenylthio)-propyl bromide | C(C)(=O)C1=C(C(=C(C=C1)SCCCBr)CCC)O | C14H19BrO2S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-(4-acetyl-3-hydroxy-2-propylphenylthio)-propyl-triphenylphosphonium bromide | [Br-].C(C)(=O)C1=C(C(=C(C=C1)SCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC)O | InChI=1S/C32H33O2PS.BrH/c1-3-14-30-31(22-21-29(25(2)33)32(30)34)36-24-13-23-35(26-15-7-4-8-16-26,27-17-9-5-10-18-27)28-19-11-6-12-20-28;/h4-12,15-22H,3,13-14,23-24H2,1-2H3;1H
